US04051254
3-methyl-4-(n-propanesulfonamido)phenyl N-methylcarbamate
According to the general procedure described in Example 1-C, 3-methyl-4-aminophenyl N-methylcarbamate (4.0g., 0.022 mole) was reacted with n-propanesulfonyl chloride (31.5g., 0.022 mole) and triethylamine (2.47g., 0.024 mole) in benzene. The product (4.0g.) showed the characteristic carbonyl absorption at 5.8μ in the infrared (KBr).

reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.022 mole, 4.0g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | n-propanesulfonyl chloride | 0.022 mole, 31.5g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | triethylamine | 0.024 mole, 2.47g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(n-propanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NS(=O)(=O)CCC)C)=O | C12H18N2O4S
